### PR TITLE
[Merged by Bors] - feat(Combinatorics/SimpleGraph/Acyclic): acyclic and bridge theorems + golfing

### PR DESCRIPTION
**Pull request by SnirBroshi**
---

- [x] depends on: #30542 
- [x] depends on: #30570

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Combinatorics/SimpleGraph/Acyclic.lean [hunk 1]
```diff
@@ -361,109 +361,81 @@ lemma Connected.exists_isTree_le [Finite V] (h : G.Connected) : ∃ T ≤ G, IsT
...
-    exact fun hc ↦ (hc ▸ this ▸ hv) ConnectedComponent.connectedComponentMk_mem
-  simp_rw [s, SetLike.coe, ConnectedComponent.supp_inj, ← ConnectedComponent.mem_supp_iff]
-  grind
+  refine ⟨.mono h.prop.left, fun ⟨p⟩ ↦ ?_⟩
+  by_contra
+  let s := F.connectedComponentMk u
+  have := this ∘ s.reachable_of_mem_supp rfl
+  have ⟨⟨⟨u', v'⟩, huv⟩, _, hu, hv⟩ := p.exists_boundary_dart s rfl this
+  have := mt ConnectedComponent.sound <| s.mem_supp_iff u' |>.mp hu ▸ hv
+  have := h.le_of_ge ⟨?_, h.prop.right.isAcyclic_sup_fromEdgeSet_of_not_reachable this⟩ le_sup_left
```
Comment (b-mehta) [inline Mathlib/Combinatorics/SimpleGraph/Acyclic.lean]: This is shorter but it's a bit harder to see at a glance what's going on here - can you have the `have :=` some type ascriptions?

**Review by b-mehta — COMMENTED** [review]
This looks like it's an improvement overall, but some parts look a little over-golfed! Let's try to preserve some readability  by giving type ascriptions to a few of the have-statements?

**Review by b-mehta — APPROVED** [review]

File: Mathlib/Combinatorics/SimpleGraph/Acyclic.lean (hunk 1 above)
Comment (SnirBroshi) [reply Mathlib/Combinatorics/SimpleGraph/Acyclic.lean]: Added types which hopefully helps.
The gist here is:
- We know `F ≤ G` so we only need `G.Reachable ≤ F.Reachable`
- `by_contra` there are `u v` which are reachable in `G` but not in `F`
- Take `G.Walk u v`, we know it starts from the component of `u` in `F` and leaves it, so `exists_boundary_dart` to get `u' v'` which aren't connected in `F`.
- Add the edge `u' v'` to `F` and contradict its maximality

We needed the boundary dart to satisfy the `≤ G` part of the `Maximal`; before #32043 this PR had pretty much the same proof but without taking the boundary dart, since it was dealing with `Maximal IsAcyclic F` without `≤ G`.

**Comment by SnirBroshi** [comment]
a27f4db713ac7644146362307ef88c6fe80aee21 tries to improve the statement of another theorem

**Review by ocfnash — APPROVED** [review]
@grunweg and I just had a look at this and it looks good to us. We note that two things are happening simultaneously:

- Some quite heavy golfing
- Some useful new lemmas

I think we can merge these changes but it would be nice if a graph theorist could take a quick final pass.

maintainer merge

File: Mathlib/Combinatorics/SimpleGraph/Acyclic.lean [hunk 2]
```diff
@@ -357,108 +357,87 @@ lemma isTree_iff_minimal_connected : IsTree G ↔ Minimal Connected G := by
...
+  · rw [maximal_isAcyclic_iff_reachable_eq hT hT'.IsAcyclic,
+      T.preconnected_iff_reachable_eq_top.mp hT'.isConnected.preconnected,
+      G.preconnected_iff_reachable_eq_top.mp hG.preconnected]
 
 @[simp]
 theorem maximal_isAcyclic_iff_isTree [Nonempty V] {T : SimpleGraph V} :
     Maximal IsAcyclic T ↔ T.IsTree := by
   simp [← connected_top.maximal_le_isAcyclic_iff_isTree le_top]
 
+/-- A maximally acyclic graph is a tree. -/
```
Comment (b-mehta) [inline Mathlib/Combinatorics/SimpleGraph/Acyclic.lean]: The statement here looks really similar to the previous, in particular the docstring of this one looks like it's better suited for the previous. I think the easiest way to improve this is just a slightly expanded docstring, perhaps mentioning the earlier one?

**Review by b-mehta — APPROVED** [review]
I'm reasonably content with this PR, can you fix the merge conflict though?

I agree with Oliver that two things are happening in this PR, which isn't ideal, but the new lemmas are helping the golfing, and putting them together (in this case, since it's already a relatively small PR) shows the value of the new lemmas in context. So I think it's overall good.

**Comment by SnirBroshi** [comment]
Thanks @b-mehta, fixed the merge conflict and the [docstring](https://github.com/leanprover-community/mathlib4/pull/30640/commits/b32f00158615e0aae8eaf745123912bf5eb9f640)

**Review by b-mehta — COMMENTED** [review]
Thanks!

bors merge
